US08466186B2
(e) N-{4-Chloro-3-[5-cyano-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino}-benzyl]-1-trifluoromethyl-cyclopropanamide
The title compound was prepared in analogy to Example 76 using 5-amino-4-(methylamino)-2-(4-trifluoromethyl-piperidin-1-yl)benzonitrile (179 mg, 0.60 mmol), N-(4-chloro-3-isothiocyanatobenzyl)-1-(trifluoromethyl)cyclopropane carboxamide (200 mg; 0.60 mmol), DIC (76 mg, 0.60 mmol) and DMF (4 mL).

reactant | 5-amino-4-(methylamino)-2-(4-trifluoromethyl-piperidin-1-yl)benzonitrile | 0.60 mmol, 179 mg | NC=1C(=CC(=C(C#N)C1)N1CCC(CC1)C(F)(F)F)NC | C14H17F3N4
reactant | N-(4-chloro-3-isothiocyanatobenzyl)-1-(trifluoromethyl)cyclopropane carboxamide | 0.60 mmol, 200 mg | ClC1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1)N=C=S | C13H10ClF3N2OS
reactant | DIC | 0.60 mmol, 76 mg | CC(N=C=NC(C)C)C | C7H14N2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N-{4-Chloro-3-[5-cyano-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino}-benzyl]-1-trifluoromethyl-cyclopropanamide | ClC1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1)NC1=NC2=C(N1C)C=C(C(=C2)C#N)N2CCC(CC2)C(F)(F)F | C27H25ClF6N6O
